US08604055B2
Acetyl chloride (1.1 mL, 15.4 mmol) was added slowly to an ice cooled solution of cyclohexylmethyl amine (1.3 mL, 10 mmol) in pyridine (4 mL) under a nitrogen atmosphere. After stirring at 0-5° C. for 1 h, the reaction mixture was maintained at ambient temperature for 6 h. This mixture was then poured into water (20 mL) and extracted with ethyl acetate (3×25 mL). The combined organic phases were washed with 1N HCl (2×10 mL) and then with a saturated sodium bicarbonate solution (10 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to give N-acetyl-cyclohexyl-ethyl-amine (1.50 g), yield: 98%. A solution of N-acetyl-cylohexyl-ethyl-amine (0.8 g, 5.0 mmol) in anhydrous THF (10 mL) was prepared under nitrogen, and lithium aluminum hydride (1.0 M solution in ether, 10 mmol) was added to the solution. After stirring for 6 h at RT, the reaction mixture was poured into water (30 mL) and stirred for 1 h. The inorganic salts were then filtered and washed with water (10 mL) and ethyl acetate (3×25 mL). The combined filtrate was collected and the organic phase was separated. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (0.4 g, yield: 56%).

reactant | Acetyl chloride | 15.4 mmol, 1.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | cyclohexylmethyl amine | 10 mmol, 1.3 mL | C1(CCCCC1)CN | C7H15N
reactant | water | 20 mL | O | H2O
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-acetyl-cyclohexyl-ethyl-amine | 1.50 g, yield: 98% | C(C)(=O)N(CC)C1CCCCC1 | C10H19NO
